US09359381B2
Step 3: 6-(2,3-Dihydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
HCl (2 M in diethyl ether) (92 ml, 185 mmol) was added dropwise to a solution of 6-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (7.15 g, 18.46 mmol) and water (6.65 g, 369 mmol) in acetonitrile (35.1 mL). The mixture was stirred at room temperature for 30 minutes. Evaporation of the reaction mixture under vacuum afforded the title compound.

reactant | HCl | 185 mmol, 2 M, 92 ml | Cl | ClH
reactant | 6-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 18.46 mmol, 7.15 g | CC1(OCC(O1)CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)C | C20H22FN3O4
reactant | water | 369 mmol, 6.65 g | O | H2O
solvent | acetonitrile | 35.1 mL | C(C)#N | C2H3N
product | 6-(2,3-Dihydroxypropyl)-5-(3-fluorophenyl)-1,3-dimethyl-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | OC(CN1C=C2N(C(N(C(C2=C1C1=CC(=CC=C1)F)=O)C)=O)C)CO | C17H18FN3O4
